US07807709B2
d. 4-Ethynyl-3-(3-methoxy-propoxy)-benzoic acid
To a solution of 3-(3-methoxy-propoxy)-4-trimethylsilanylethynyl-benzoic acid methyl ester (16.49 mmol) in MeOH (40 mL) is added KOH (1 N, 24.7 mL, 24.7 mmol). The resulting mixture is stirred at RT for 15 h and concentrated under reduced pressure. The residue was taken up in HCl (2 N, 100 mL) and extracted with AcOEt (100 mL×3). The combined organic extracts are washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford the title as a yellow oil which is used without further purification in the next step. MS (FAB): 235.0 [M+H]+. 1H-NMR (CDCl3, 300 MHz): δ=2.15 (p, 2H), 3.38 (s, 3H), 3.41 (s, 1H), 3.62 (t, 2H), 4.22 (t, 2H), 7.5 (d, 1H), 7.65 (s, 1H), 7.68 (d, 1H) ppm.

reactant | 3-(3-methoxy-propoxy)-4-trimethylsilanylethynyl-benzoic acid methyl ester | 16.49 mmol | COC(C1=CC(=C(C=C1)C#C[Si](C)(C)C)OCCCOC)=O | C17H24O4Si
reactant | KOH | 24.7 mmol, 1 N, 24.7 mL | [OH-].[K+]
solvent | MeOH | 40 mL | CO | CH4O
product | 4-Ethynyl-3-(3-methoxy-propoxy)-benzoic acid | C(#C)C1=C(C=C(C(=O)O)C=C1)OCCCOC | C13H14O4
